US06949579B2
N-[6-(3-thiophenyl)-1H-indazol-3-yl]butanamide
8.2 cm3 of tetrabutylammonium fluoride as a 1M solution in tetrahydrofuran are added to 570 mg of N-[6-(3-thiophenyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide, described previously, in 20 cm3 of tetrahydrofuran. The reaction medium is heated at about 66° C. for 18 hours. The heating is then stopped and 75 cm3 of ethyl acetate are added. This mixture is washed with 2×50 cm3 of saturated aqueous sodium hydrogen carbonate solution and then with 50 cm3 of saturated aqueous sodium chloride solution. The organic phase is dried over magnesium sulphate, filtered through a sinter funnel and evaporated under reduced pressure (2 kPa; 50° C.). The residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2.5 cm), eluting with cyclohexane/ethyl acetate (60/40 by volume) and collecting 20 cm3 fractions. The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.). The residue is taken up in 2×5 cm3 of diisopropyl ether. This mixture is filtered through a sinter funnel and evaporated under reduced pressure (2 kPa; 40° C.) to give, after drying (90 Pa; 50° C.), 260 mg of N-[6-(3-thiophenyl)-1H-indazol-3-yl] butanamide in the form of a white solid melting at about 198° C.

reactant | tetrabutylammonium fluoride | 8.2 cm3 | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-[6-(3-thiophenyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 570 mg | S1C=C(C=C1)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C21H29N3O2SSi
reactant | ethyl acetate | 75 cm3 | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
product | N-[6-(3-thiophenyl)-1H-indazol-3-yl]butanamide | S1C=C(C=C1)C1=CC=C2C(=NNC2=C1)NC(CCC)=O | C15H15N3OS
